US07786141B2
A mixture of 2,3-dimethylpyrazine (25 g, 0.23 mol) and 30% H2O2 (52.4 g, 0.46 mol) in acetic acid (74 mL) was stirred for two days at 35° C. The solvent was removed under vacuum. Water was added and the mixture evaporated again. The residue was basified with aqueous K2CO3 and extracted with EtOAc. The organic phases were dried over Na2SO4 and concentrated. The resulting solid combined from two batches was recrystallized from cyclohexane to give 2,3-dimethylpyrazine 1-oxide (27 g, 47%). 1HNMR (CDCl3, 300 MHz) δ 8.18 (d, J=3.9 Hz, 1H), 8.02 (d, J=4.2 Hz, 1H), 2.58 (s, 3H), 2.48 (s, 3H).

reactant | 2,3-dimethylpyrazine | 0.23 mol, 25 g | CC1=NC=CN=C1C | C6H8N2
reactant | H2O2 | 0.46 mol, 52.4 g | OO | H2O2
solvent | acetic acid | 74 mL | C(C)(=O)O | C2H4O2
product | 2,3-dimethylpyrazine 1-oxide | 27 g, 47% | CC1=[N+](C=CN=C1C)[O-] | C6H8N2O
